US06686347B2
rac. 1-(4-Chlor-anilino)-4-(pyridin-4-yl-fluormethyl)-phthalazine
Under N2-atmosphere, 7.02 ml (4.65 mmol; 15% in toluene) of potassium bis(trimethylsilyl)-amide are dissolved in 78 ml THF and then cooled to −78° C. A solution of 537.5 mg (1.55 mmol) of 1-(4-chlor-anilino)-4-(pyridin-4-yl-methyl)-phthalazine (see WO 98/35958) in 30 ml THF is added dropwise. The resulting black solution is stirred for additional 30 min, then 1.00 g (4.65 mmol) of 2-fluoro-3,3-dimethyl-2,3-dihydro-1,2-benzisothiazole (Fluka; Buchs, Switzerland) in 30 ml THF are added slowly. The reaction solution slowly turns to yellow-orange. After 3 h at −78° C., a solution of 1 ml acetic acid in 5 ml of THF is added. The reaction mixture is poured into a diluted NaHCO3-solution and extracted three times with ethyl acetate. The organic layers are washed with 2 portions of water and brine, dried (Na2SO4) and concentrated. Chromatography (SiO2; EtOAc/dichloromethane 2:1 to EtOAc to EtOAc/EtOH 9:1 to 4:1) and crystallization from acetonitrile/acetone finally gave the title compound: 1H NMR (DMSO-d6) δ9.50 (s, HN), 8.65 (d, 1H), 8.61 (d, 2H), 8.16 (d, 1H), 8.03 (t, 1H), 7.99 (t, 1H), 7.96 (d, 2H), 7.43 (d, 2H), 7.40 (d, 2H), 7.34 (s, 1H); 19F NMR (DMSO-d6) δ−50.7; FAB-MS (M+H)+=365.

reactant | potassium bis(trimethylsilyl)-amide | 4.65 mmol, 7.02 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-(4-chlor-anilino)-4-(pyridin-4-yl-methyl)-phthalazine | 1.55 mmol, 537.5 mg | ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C20H15ClN4
reactant | 2-fluoro-3,3-dimethyl-2,3-dihydro-1,2-benzisothiazole | 4.65 mmol, 1.00 g | FN1SC2=C(C1(C)C)C=CC=C2 | C9H10FNS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 78 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | rac. 1-(4-Chlor-anilino)-4-(pyridin-4-yl-fluormethyl)-phthalazine | ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)C(F)C2=CC=NC=C2)C=C1 | C20H14ClFN4
